US06897224B2
62 ml of a 3 M methylmagnesium bromide solution in tetrahydrofuran is added in drops within one hour at 0 C. into 18.6 g of 5-bromo-2-methoxybenzoic acid methyl ester and 180 ml of diethyl ether. After 16 hours at room temperature and while being cooled with ice, it is mixed with saturated ammonium chloride solution and ethyl acetate. The ethyl acetate phase is washed with water, dried (Na2SO4) and concentrated by evaporation. After bulb tube distillation (boiling point: 140° C./0.04 hPa), 16.7 g of crystalline 1-(5-bromo-2-methoxyphenyl)-1-methylethanol is obtained. Flash point: 66-68° C.

reactant | methylmagnesium bromide | 3 M | C[Mg]Br
reactant | 5-bromo-2-methoxybenzoic acid methyl ester | 18.6 g | COC(C1=C(C=CC(=C1)Br)OC)=O | C9H9BrO3
reactant | diethyl ether | 180 ml | C(C)OCC | C4H10O
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(5-bromo-2-methoxyphenyl)-1-methylethanol | 16.7 g | BrC=1C=CC(=C(C1)C(C)(O)C)OC | C10H13BrO2
